US04698364
A mixture of 2,4-dichlorobenzoic acid (7.64 g), thiosalicylic acid (7.16 g), anhydrous potassium carbonate (22 g), and copper powder (300 mg) was suspended in benzyl alcohol and this suspension was heated under N2 atmosphere at 110-120° C. for 3 hours. After cooling, 10% aqueous potassium hydroxide solution (120 ml) was added and extracted with ether. The aqueous layer was filtered and acidified with 6N HCl. The resulting precipitated product was isolated by filtration. Recrystallization from aqueous methanol gave 4-chloro-2,2'-thiodibenzoic acid (compound No. 1) in an amount of 8.56 g (yield: 70%). m.p. 241-242° C.

reactant | 2,4-dichlorobenzoic acid | 7.64 g | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | thiosalicylic acid | 7.16 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | potassium carbonate | 22 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | 120 ml | [OH-].[K+]
solvent | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
catalyst | copper | 300 mg | [Cu] | Cu
product | 4-chloro-2,2'-thiodibenzoic acid | yield: 70% | ClC1=CC(=C(C(=O)O)C=C1)SC1=C(C(=O)O)C=CC=C1 | C14H9ClO4S
